US05833879
This reagent was gradually (for about one hour), dropwise added to a mixture consisting of p-dibromobenzene (150 mmol), bis(triphenylphosphine) Ni(II) dichloride (7.5 mmol) and THF (150 ml), at 0° C. or lower, followed by heating the mixture under reflux with stirring, allowing the mixture to cool down to room temperature, adding toluene (200 ml) and water (200 ml) to the reaction solution, sufficiently stirring the mixture, three times washing the organic layer with a brine (200 ml), drying over anhydrous magnesium sulfate, distilling off the solvent under reduced pressure at 30° C. or lower, purifying the residue subjecting to silica gel column chromatography (eluent solvent: heptane/toluene mixture) and further distilling under reduced pressure to obtain oily 4-bromo-1-(3pentynyl)benzene (61 mmol).

reactant | p-dibromobenzene | 150 mmol | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 ml | O | H2O
product | 4-bromo-1-(3pentynyl)benzene | 61 mmol | BrC1=CC=C(C=C1)CCC#CC | C11H11Br
